US06172167B2
Synthesis of N,N′-1,4 butanediyl-bis[6-hydroxy hexanamide] (diamide-diol)
To a solution of 8.35 gram (0.0949 mol) 1,4-butanediamine in a mixture of 25 ml THF and 5 ml H2O was added a solution of 21.66 gram (0.1897 mol) ε-caprolactone in 25 ml THF in 5 min. at room temperature while stirring. The reaction mixture was stirred for 16 hours, whereafter the solvent was evaporated under reduced pressure. The obtained crude product (light yellow oil) was dissolved in 150 ml methanol (p.a.) and brought to pH=11.5 by adding 1M NaOH. The obtained solution was stirred for 16 hours whereafter it was added slowly drop by drop to 500 ml THF (p.a.). The obtained white product was filtered off and dried. The product still contains crystallization water. Yield 70%; Tm=135-136° C. C16H32N2O4: C, H, N; calculated 60.71%, 10.20%, 8.86%; found 58.87%, 10.13%, 8.44%.

reactant | 1,4-butanediamine | 0.0949 mol, 8.35 gram | C(CCCN)N | C4H12N2
reactant | ε-caprolactone | 0.1897 mol, 21.66 gram | C1(CCCCCO1)=O | C6H10O2
reactant | NaOH | 1M | [OH-].[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | H2O | 5 ml | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | methanol | 150 ml | CO | CH4O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | N,N′-1,4 butanediyl-bis[6-hydroxy hexanamide] | Yield 70% | C(CCCNC(CCCCCO)=O)NC(CCCCCO)=O | C16H32N2O4
